US06417202B1
3-Acetyl-5-bromo-2,4-dimethyl-1H-pyrrole (Step 1)
To a stirred suspension of 3-acetyl-2,4-dimethyl-1H-pyrrole (2.89 g, 21.1 mmol) in THF (80 mL) was added NBS (3.75 g, 21.1 mmol) at −78° C. under nitrogen. After stirring for 30 minutes at same temperature, the mixture was allowed to warm to room temperature and stirred for 1 hour. Sodium sulfite (4.3 g) was added to the mixture and volatiles were removed by evaporation. Water (100 mL) was added to the mixture, and the precipitates were collected by filtration to give 5.33 g (quant. including water) of the subtitle product.

reactant | 3-acetyl-2,4-dimethyl-1H-pyrrole | 21.1 mmol, 2.89 g | C(C)(=O)C1=C(NC=C1C)C | C8H11NO
reactant | NBS | 21.1 mmol, 3.75 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | Sodium sulfite | 4.3 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 3-Acetyl-5-bromo-2,4-dimethyl-1H-pyrrole | C(C)(=O)C1=C(NC(=C1C)Br)C | C8H10BrNO
